US04940710
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(1H-pyrazol-3-yl)-1-piperazinyl]-3-quinolinecarboxylic acid
A mixture of 703 mg of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.14 g of 2-(1H-pyrazol-3-yl)piperazine and 5 ml of pyridine was heated in a pressure bottle at 130° C. for 24 hours. It was allowed to cool at room temperature, then cooled to 0° C., the pyridine removed and the crude product purified by flash chromatography on silica gel, giving 195 mg of the desired product.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 703 mg | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 2-(1H-pyrazol-3-yl)piperazine | 1.14 g | N1N=C(C=C1)C1NCCNC1 | C7H12N4
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(1H-pyrazol-3-yl)-1-piperazinyl]-3-quinolinecarboxylic acid | 195 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=NNC=C1)F)=O)C(=O)O | C20H20FN5O3
